US08349859B2
To a solution of 2,4-dichloropyrimidine (1 mmol) and 5-hydroxy-2-methylindole (1 mmol) in 5 ml EtOH was added Et3N (1 mmol). The reaction mixture was refluxed for 5 h. After removal of the solvent in vacuo and addition of H2O, the mixture was extracted with EtOAc. The organic layers were combined, washed with a saturated NaCl aqueous solution, dried over anhydrous Na2SO4, and concentrated in vacuo. The resulting oil residue was purified by column chromatography to give 5-(2-chloropyrimidin-4-yloxy)-2-methyl-1H-indole in a yield of 75%.

reactant | 2,4-dichloropyrimidine | 1 mmol | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 5-hydroxy-2-methylindole | 1 mmol | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | Et3N | 1 mmol | CCN(CC)CC | C6H15N
solvent | EtOH | 5 ml | CCO | C2H6O
product | 5-(2-chloropyrimidin-4-yloxy)-2-methyl-1H-indole | yield of 75% | ClC1=NC=CC(=N1)OC=1C=C2C=C(NC2=CC1)C | C13H10ClN3O
